US05731405
2-Trifluoromethyl-4-nitro-benzeneamine (4.92 g, 23.8 mmol) slurried in 5N hydrochloric acid (15.8 mL) and ice (16 g) was diazotized with 2M sodium nitrite (12.6 mL, 25 mmol) at 0°-5° C., followed by coupling with 3-trifluoromethylbenzeneamine (5.0 g, 31 mmol) in 5N hydrochloric acid (8 mL) at 0°-5° C. The mixture was stirred occasionally for 0.5 h, basified with 25 wt % aqueous potassium carbonate. The resulting solid was recrystallized from THF-ethanol (1:1) to give 4-(3'-trifluoromethyl-4'-nitrophenyl)azobenzeneamine: 1.8 g; mp 144.0°-145.5° C.

reactant | 2-Trifluoromethyl-4-nitro-benzeneamine | 23.8 mmol, 4.92 g | FC(C1=C(C=CC(=C1)[N+](=O)[O-])N)(F)F | C7H5F3N2O2
reactant | sodium nitrite | 25 mmol, 2M, 12.6 mL | N(=O)[O-].[Na+]
reactant | 3-trifluoromethylbenzeneamine | 31 mmol, 5.0 g | FC(C=1C=C(C=CC1)N)(F)F | C7H6F3N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 5N, 15.8 mL | Cl | ClH
solvent | hydrochloric acid | 5N, 8 mL | Cl | ClH
product | 4-(3'-trifluoromethyl-4'-nitrophenyl)azobenzeneamine | FC(C=1C=C(C=CC1[N+](=O)[O-])N=NC1=CC=C(C=C1)N)(F)F | C13H9F3N4O2
